US04720445
Preparation of Maleimide-Ethylhexyl Vinyl Ether Copolymer
A polymer was prepared in the manner of Example 1, except the comonomer to maleimide was 2-ethylhexyl vinyl ether. The polymer yield was 59%.

reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | 2-ethylhexyl vinyl ether | C(=C)OCC(CCCC)CC | C10H20O
product | Maleimide Ethylhexyl Vinyl Ether | yield was 59% | C1(C=CC(N1)=O)=O.C(=C)OC(CCCCC)CC | InChI=1S/C10H20O.C4H3NO2/c1-4-7-8-9-10(5-2)11-6-3;6-3-1-2-4(7)5-3/h6,10H,3-5,7-9H2,1-2H3;1-2H,(H,5,6,7)
